US06927214B1
(6,7-Dichloro-3-methylsulfonylquinoxalin-2-yl)amine
Dry ammonia gas was bubbled through a solution of tetrachloroquinoxaline (260 mg, 0.97 mmol) in dry DMF (20 ml), while stirring at 0° C. After 20 minutes, the reaction was allowed to warm to room temperature and bubbling was continued for an additional 15 minutes. The reaction mixture was then concentrated to dryness in vacuo. To a suspension of the resulting 2,6,7-trichloro-3-aminoquinoxaline in DMF was added methanesulfinic acid sodium salt (230 mg, 2.2 mmol). The reaction was stirred overnight at room temperature. After removing the solvent in vacuo, the residue was taken up in ethyl acetate and water. The layers were separated and the aqueous layer was extracted twice with ethyl acetate. The organic layers were combined and evaporated in vacuo. (6,7-Dichloro-3-methylsulfonylquinoxalin-2-yl)amine was purified by flash column chromatography using ethyl acetate:hexane 1:3 to obtain a yellow solid.

reactant | ammonia | N | H3N
reactant | tetrachloroquinoxaline | 0.97 mmol, 260 mg | ClC=1C(=C2N=C(C(=NC2=CC1)Cl)Cl)Cl | C8H2Cl4N2
reactant | methanesulfinic acid sodium salt | 2.2 mmol, 230 mg | [Na+].CS(=O)[O-]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (6,7-Dichloro-3-methylsulfonylquinoxalin-2-yl)amine | ClC=1C=C2N=C(C(=NC2=CC1Cl)N)S(=O)(=O)C | C9H7Cl2N3O2S
